US07935131B2
Preparation of 3-chloro-3-oxopropyl acrylate (1):
2-Carboxyethyl acrylate (1 eq.) is dissolved in CH2Cl2 and the solution is cooled in an ice bath. Thionyl chloride (1 eq.) is added dropwise and the mixture is allowed to warm to room temperature and stir for 4 hours. The solvent is removed under reduced pressure and the desired product is isolated by vacuum distillation.

reactant | 2-Carboxyethyl acrylate | 1 eq. | C(C=C)(=O)OCCC(=O)O | C6H8O4
reactant | Thionyl chloride | 1 eq. | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-chloro-3-oxopropyl acrylate | C(C=C)(=O)OCCC(=O)Cl | C6H7ClO3
